US08278290B2
(i) 4-Iodo-1-(4-methoxy-benzyl)-1H-pyrazole
To a stirred solution of 4-iodo-1H-pyrazole (1.50 g, 7.73 mmol) in dry DMF (15 mL) at 0° C. was added sodium hydride (9.28 mmol, 60% dispersion in mineral oil) and the reaction mixture was allowed to warm to room temperature. After the evolution of hydrogen had ceased, 4-methoxy-benzyl chloride (1.06 mL, 7.80 mmol) was added and the reaction was stirred for 2 h and then quenched with water (50 mL) and extracted with diethyl ether (100 mL). The organic layer was washed with water (3×30 mL) and brine, dried over magnesium sulphate and the solvent removed under vacuum. The crude residue was washed with small portions of hexane and dried in vacuo, providing the product as a white solid (2.26 g, 93% yield). 1H-NMR (CDCl3) δ 7.51 (s, 1H), 7.34 (s, 1H), 7.17 (d, J=8.5 Hz, 2H), 6.87 (d, J=8.5 Hz, 2H), 5.21 (s, 2H), 3.78 (s, 3H).

reactant | 4-iodo-1H-pyrazole | 7.73 mmol, 1.50 g | IC=1C=NNC1 | C3H3IN2
reactant | sodium hydride | 9.28 mmol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-methoxy-benzyl chloride | 7.80 mmol, 1.06 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Iodo-1-(4-methoxy-benzyl)-1H-pyrazole | 2.26 g, 93% yield | IC=1C=NN(C1)CC1=CC=C(C=C1)OC | C11H11IN2O
